US05041455
B. 3-(4-propylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 8 mmol) and 3-(4-propylthio-1,2,5-thiadiazol-3-yl)pyridine (0.63 g, 2.6 mmol) in acetone (5 ml) was stirred at room temperature for 18 h and evaporated.

reactant | methyl iodide | 8 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-propylthio-1,2,5-thiadiazol-3-yl)pyridine | 2.6 mmol, 0.63 g | C(CC)SC=1C(=NSN1)C=1C=NC=CC1 | C10H11N3S2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-propylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CC)SC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C11H14N3S2.HI/c1-3-7-15-11-10(12-16-13-11)9-5-4-6-14(2)8-9;/h4-6,8H,3,7H2,1-2H3;1H/q+1;/p-1
